US09062092B2
Compound 58b. (S)-2-Methoxymethyl-2-methyl-but-3-enoic acid
To a stirred solution of (S)-4-isopropyl-3-((R)-2-methoxymethyl-2-methyl-but-3-enoyl)-oxazolidin-2-one (1.5 g, 5.87 mmol) in tetrahydrofuran (30 mL) and water (15 mL) at 0° C., was added hydrogen peroxide (30% solution, 3 mL, 29.35 mmol) and lithium hydroxide monohydrate (0.59 g, 11.75 mmol). The reaction mixture was stirred at 0° C. for 3 h then was treated with saturated sodium metabisulfite and the pH of the solution was adjusted to 1 with dropwise addition of hydrochloric acid (10 M). The aqueous layer was extracted with ethyl acetate (2×) and the combined organic layers were washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated. The crude residue was purified by silica gel chromatography using a Biotage KP-Sil 50 g cartridge, eluting with a gradient of iso-hexanes/ethyl acetate 1:0 to 3:1 to give the title product (0.546 g, 65%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 1.36 (s, 3H), 3.42 (s, 3H), 3.45 (d, J=8.9 Hz, 1H), 3.62 (d, J=8.9 Hz, 1H), 5.20-5.30 (m, 2H), 6.01 (dd, J=17.6, 10.7 Hz, 1H), 9.80-11.80 (br. s, 1H).

reactant | (S)-4-isopropyl-3-((R)-2-methoxymethyl-2-methyl-but-3-enoyl)-oxazolidin-2-one | 5.87 mmol, 1.5 g | C(C)(C)[C@@H]1N(C(OC1)=O)C([C@@](C=C)(C)COC)=O | C13H21NO4
reactant | hydrogen peroxide | 29.35 mmol, 3 mL | OO | H2O2
reactant | lithium hydroxide monohydrate | 11.75 mmol, 0.59 g | O.[OH-].[Li+]
reactant | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | hydrochloric acid | 10 M | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | (S)-2-Methoxymethyl-2-methyl-but-3-enoic acid | 0.546 g, 65% | COC[C@@](C(=O)O)(C=C)C | C7H12O3
